US08389508B2
To a solution of 5-{5-[2-ethyl-3-(2-oxoethyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-(2-methylpropyl)benzonitrile (D31) (52 mg) and ethyl 4-piperidinecarboxylate (105 mg) in ethanol (10 mL) stirred at room temperature was added sodium acetate (32.9 mg) and AcOH (0.15 mL). The reaction mixture was stirred at room temperature for 10 min. The residue was dissolved in dichloromethane (DCM) (10 mL), sodium triacetoxyborohydride (85 mg) was added. Stirring continued for overnight. Water was added to quench the reaction, and DCM was removed by evaporation. The mixture was extracted by EA for 3 times. The combined organic solution was washed by brine, dried over anhydrous Na2SO4. The dried solution was filtered and concentrated to afford ethyl 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)ethyl]-4-piperidinecarboxylate (D33) (63.8 mg). MS (ES): C31H38N4O2S requires 530. found 531.3 (M+H+).

reactant | 5-{5-[2-ethyl-3-(2-oxoethyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-(2-methylpropyl)benzonitrile | 52 mg | C(C)C1=C(C=CC=C1CC=O)C1=NN=C(S1)C=1C=CC(=C(C#N)C1)CC(C)C | C23H23N3OS
reactant | ethyl 4-piperidinecarboxylate | 105 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium acetate | 32.9 mg | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | AcOH | 0.15 mL | CC(=O)O | C2H4O2
product | ethyl 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,3,4-thiadiazol-2-yl}-2-ethylphenyl)ethyl]-4-piperidinecarboxylate | 63.8 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NN=C(S1)C=1C(=C(C=CC1)CCN1CCC(CC1)C(=O)OCC)CC | C31H38N4O2S
